US07713996B2
A suspension of 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester (185 mg, 0.350 mmol) in ethanol (2 mL) and 3 M aq. potassium hydroxide solution (0.35 mL, 1.05 mmol) was heated at 50° C. for 18 h, then volatile material was removed by distillation. The residue was taken up in water (2 mL) and brought to pH 1 by addition of 2 M aq. hydrochloric acid solution. The precipitate was collected by filtration and dried, producing 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid (139 mg, 76%). Off-white solid, MS (ISP): m/e 499.1 (M−H).

reactant | 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid ethyl ester | 0.350 mmol, 185 mg | C(C)OC(C1=CC=C(C=C1)NC(=O)C1=CC(=C2CCN(C2=C1)S(=O)(=O)C1=C(C=CC(=C1)Cl)OC)C)=O | C26H25ClN2O6S
reactant | potassium hydroxide | 1.05 mmol, 3 M, 0.35 mL | [OH-].[K+]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-{[1-(5-chloro-2-methoxy-benzenesulfonyl)-4-methyl-2,3-dihydro-1H-indole-6-carbonyl]-amino}-benzoic acid | 139 mg, 76% | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCC2=C(C=C(C=C12)C(=O)NC1=CC=C(C(=O)O)C=C1)C)OC | C24H21ClN2O6S
